US07696223B2
d) {[7-Cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
Prepared in analogy to that of Example 1(e) from 7-cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 369 (M+H)+.

reactant | 7-cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CC2=C(C=CC=C2)F)O | C18H14FN3O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | {[7-Cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | C(#N)C=1N=C(C(=C2C1N(C=C2)CC2=C(C=CC=C2)F)O)C(=O)NCC(=O)O | C18H13FN4O4
